US05593993
2-Hydroxymethyl-3-fluoropyridine
A solution of 2-formyl-3-fluoropyridine (4.0 g, 32 mmol) and sodium borohydride (309 mg, 8 mmol) in absolute ethanol (40 mL) was stirred at 0° C. for 15 minutes and at room temperature for 1 hour. The reaction was quenched with saturated aqueous ammonium chloride (5 mL) and filtered through diatomaceous earth to remove solids. The filtrate was evaporated and the resultant white solid was dissolved in ethyl acetate and water. The aqueous layer was extracted with ethyl acetate (5×30 mL) and the combined extracts were dried over anhydrous sodium sulfate. Solvent removal provided 3.78 g (93%) of the titled product as a pale yellow oil:

reactant | 2-formyl-3-fluoropyridine | 32 mmol, 4.0 g | C(=O)C1=NC=CC=C1F | C6H4FNO
reactant | sodium borohydride | 8 mmol, 309 mg | [BH4-].[Na+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 2-Hydroxymethyl-3-fluoropyridine | 3.78 g, 93% | OCC1=NC=CC=C1F | C6H6FNO
